* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\dummy.asc
Vs1 N001 0 SINE(0 50m 10k) AC 1
RS_ Vi N001 {RS_}
RB Vi 0 {RB}
R§hie1 Vi N002 {hie1}
RD Vo 0 {RD}
R§hie2 N002 Vo {hie2}
B1 0 Vo I={I(hie2)}*150
B2 0 N002 I={I(hie1)}*150
* Modelo incremental
.param RS_=50
.param RB=1k
.param RE=10554
.param RL=100K
.param RD=10554
.param hie1=130k
.param hie2=997
.param I1=29.6u
.param I2=8.64m
.ac dec 50 10 1e6
.backanno
.end
