* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\pol.asc
Q1 Vc2 vin Vb2 0 BC547B
Q2 Vc2 Vb2 Ve2 0 BC547B
R1 Vc2 vin 1k
Vcc Vc2 0 9
Rref Vc2 N001 {Rr}
M1 N001 N001 0 0 BS170
M2 Ve2 N001 0 0 BS170
.model NPN NPN
.model PNP PNP
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10 .001 .1
* .step param Rr 100 1000 100
.param Rr=660
.backanno
.end
