* C:\Users\ohvic\Documents\ITBA\Electrónica 1\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\polasc.asc
Q1 Vcc vin N001 0 BC547B
Q2 Vcc N001 vout 0 BC547B
R1 Vcc vin 1k
Vcc Vcc 0 9
Rref Vcc N002 180
M1 N002 N002 0 0 BS170
M2 vout N002 0 0 BS170
.model NPN NPN
.model PNP PNP
.lib C:\Users\ohvic\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ohvic\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10 1
.backanno
.end
