* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa_montecarlo\darlington.asc
Q1 N001 vin N004 0 BC547B
Q2 N001 N004 N007 0 BC547B
R1 N001 vin {mc({R1},tol_R1)}
Vcc N001 0 9
Ci vin N003 100n
Vs N002 0 SINE(0 10m 10k) AC 1
Rs N003 N002 {mc({Rs},tol_Rs)}
M1 N005 N005 0 0 BS170
M2 N007 N005 0 0 BS170
Rref N001 N005 {mc({Rref},tol_Rref)}
CL N007 N006 100n
RL N006 0 {mc({RL},tol_RL)}
.model NPN NPN
.model PNP PNP
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 100 0.1 1G
.param R1 1k
.param Rref=745
.param RL=100k
.param Rs=50
.param tol_R1=0.05
.param tol_RL=0.05
.param tol_Rref=0.05
.param tol_Rs=0.05
.step param run 1 100 1
.backanno
.end
