* C:\Users\ohvic\Documents\ITBA\Electrónica 1\Electro1\Trabajo Práctico 2\LTSPICE\carga_pasiva\Zoa.asc
Q1 Vcc vi N002 0 BC547B
Q2 Vcc N002 N003 0 BC547B
RB Vcc vi 1k
Vcc Vcc 0 9
RE N003 0 0.9k
C2 N003 vout 100n
C1 vi N001 100n
RS N001 0 50
V1 vout 0 AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\ohvic\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 100 1 1G
.backanno
.end
