* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_pasiva\inc.asc
V1 s 0 SINE(0 10m 10k) AC 1
VCC VCC 0 9
RS s in {Rg}
RB in1 0 {mc( RB,tolR )}
Rie1 in1 in2 {mc( hie1, tolR)}
CS in in1 {mc( Cs,tolC )}
Ccb1 in1 0 {mc( Ccb1,tolC )}
Rie2 in2 N001 {mc( hie2,tolR )}
Ccb2 in2 0 {mc( Ccb2,tolC )}
RE N001 0 {mc( RE,tolR )}
RL out 0 {mc( RL,tolR )}
CL N001 out {mc( CL,tolC )}
B1 0 in2 I={I(Rie1)}*hfe1
B2 0 N001 I={I(Rie2)}*hfe2
* Testbench
* Parameters
.param Rg=50 RB=1k RE=0.9k RL=100k Cs=100n CL=100n
.param hfe1=150 hie1=130k rce1=2.028Meg Ccb1=3.2p
.param hfe2=290 hie2=977 rce2=6.94k Ccb2=5.0p
.param tolR=0.0 tolC=0.0
* Sim Setup
;tran 0 1m 0 1n
;step param run 1 100 1
.ac dec 50 100 100meg
.backanno
.end
