* C:\Users\ohvic\Documents\ITBA\Electrónica 1\Electro1\Trabajo Práctico 1\Simulación Limitador\limitador.asc
V1 Vi 0 0
R1 Vo Vi 100
XU1 Vo N001 BZX3V6
XU2 0 N001 BZX3V6
.dc V1 -10 10 0.1
.lib C:\Users\ohvic\Documents\ITBA\Electrónica 1\Electro1\Trabajo Práctico 1\Simulación Limitador\bzx55c3v6.txt
.backanno
.end
